US05047404
3-Amino-5,6-dihydro-5-oxo-7-(2-propoxyphenyl)pyrimido[5,4-e][1,2,4]triazine
5,6-Dihydro-3-methylthio-5-oxo-7-(2-propoxyphenyl)pyrimido[5,4-e][1,2,4]triazine (0.7 g) was heated for 30 hours with ethanolic ammonia (50 ml) at 100° C. in a pressure vessel. The cooled mixture was filtered to give the crude product (0.21 g) which was recrystallised from ethanol to give the pure title compound, m.p. 322°-325° C.

reactant | 5,6-Dihydro-3-methylthio-5-oxo-7-(2-propoxyphenyl)pyrimido[5,4-e][1,2,4]triazine | 0.7 g | CSC=1N=NC2=C(N1)C(NC(=N2)C2=C(C=CC=C2)OCCC)=O | C15H15N5O2S
reactant | ammonia | 50 ml | N | H3N
product | 3-Amino-5,6-dihydro-5-oxo-7-(2-propoxyphenyl)pyrimido[5,4-e][1,2,4]triazine | NC=1N=NC2=C(N1)C(NC(=N2)C2=C(C=CC=C2)OCCC)=O | C14H14N6O2
